US05935952
In 210 ml of ethanol and 70 ml of ethyl acetate was dissolved 13.8 g of ethyl 4-azido-2,5-difluoro-3-difluoromethoxybenzoate, and 1.38 g of 5% palladium-carbon was added to the solution, after which the resulting mixture was stirred at 50° C. for six hours under a hydrogen stream. The reaction mixture was filtered, and the filtrate obtained was concentrated under reduced pressure, to obtain 12.3 g of colorless, crystalline ethyl 4-amino-2,5-difluoro-3-difluoromethoxybenzoate.

reactant | ethyl 4-azido-2,5-difluoro-3-difluoromethoxybenzoate | 13.8 g | N(=[N+]=[N-])C1=C(C(=C(C(=O)OCC)C=C1F)F)OC(F)F | C10H7F4N3O3
solvent | ethanol | 210 ml | C(C)O | C2H6O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 1.38 g | [C].[Pd]
product | ethyl 4-amino-2,5-difluoro-3-difluoromethoxybenzoate | NC1=C(C(=C(C(=O)OCC)C=C1F)F)OC(F)F | C10H9F4NO3
